US08685959B2
To a stirred solution of (R)-1-(1-(2,4-dichlorophenyl)ethyl)-6-(piperazin-1-yl)-1H-indazole (0.051 g, 0.14 mmol) and (R)-1-(t-butoxycarbonyl)pyrrolidine-2-carboxylic acid (0.061 g, 0.28 mmol) in dichloromethane (1 mL) was added HATU (0.11 g, 0.28 mmol) and iPr2NEt (0.10 mL, 0.57 mmol). The reaction mixture was stirred at room temperature for 30 min, followed by the addition of dichloromethane. The mixture was washed with deionized water, and the aqueous layer was extracted with dichloromethane (2×50 mL). The combined organic layers were dried (Na2SO4), filtered, and concentrated in vacuo. The crude product was purified by flash chromatography (SiO2, 10% methanol in dichloromethane) to afford the (R)-t-butyl 2-(4-(1-((R)-1-(2,4-dichlorophenyl)ethyl)-1H-indazol-6-yl)piperazine-1-carbonyl)pyrrolidine-1-carboxylate (0.052 g, 0.088 mmol, 63%).

reactant | (R)-1-(1-(2,4-dichlorophenyl)ethyl)-6-(piperazin-1-yl)-1H-indazole | 0.14 mmol, 0.051 g | ClC1=C(C=CC(=C1)Cl)[C@@H](C)N1N=CC2=CC=C(C=C12)N1CCNCC1 | C19H20Cl2N4
reactant | (R)-1-(t-butoxycarbonyl)pyrrolidine-2-carboxylic acid | 0.28 mmol, 0.061 g | C(C)(C)(C)OC(=O)N1[C@H](CCC1)C(=O)O | C10H17NO4
reactant | HATU | 0.28 mmol, 0.11 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | iPr2NEt | 0.57 mmol, 0.10 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | (R)-t-butyl 2-(4-(1-((R)-1-(2,4-dichlorophenyl)ethyl)-1H-indazol-6-yl)piperazine-1-carbonyl)pyrrolidine-1-carboxylate | 0.088 mmol, 0.052 g, 63% | ClC1=C(C=CC(=C1)Cl)[C@@H](C)N1N=CC2=CC=C(C=C12)N1CCN(CC1)C(=O)[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C29H35Cl2N5O3
